US07626036B2
5-Hydroxymethyl-5-methyl-3-(4-nitro-3-trifluoromethyl-phenyl)-imidazolidine-2,4-dione
Follow the procedure in Example 12, using 2-amino-3-hydroxy-2-methyl-propionic acid and 4-isocyanato-1-nitro-2-trifluoromethyl-benzene, known from the literature as starting material to yield the title compounds as a yellow solid.

reactant | 2-amino-3-hydroxy-2-methyl-propionic acid | NC(C(=O)O)(CO)C | C4H9NO3
reactant | 4-isocyanato-1-nitro-2-trifluoromethyl-benzene | N(=C=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H3F3N2O3
product | 5-Hydroxymethyl-5-methyl-3-(4-nitro-3-trifluoromethyl-phenyl)-imidazolidine-2,4-dione | OCC1(C(N(C(N1)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C12H10F3N3O5
